US05624961
Synthesis of N-{3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl}-N-methyl-2-(4-hydroxy-2-isopropyl-5-methylphenoxy)ethylamine hydrochloride
Triethylamine (2.8 ml) was added dropwise to a solution of N-methyl-2-(4-hydroxy-2-isopropyl-5-methylphenoxy)ethylamine hydrochloride (2.60 g) and 3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl chloride (2.45 g) in N,N-dimethylformamide (20 ml), and the mixture was stirred at room temperature for 16 hours. After the completion of the reaction, the reaction mixture was poured on ice water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to give 3.8 g of a pale brown oil. The oil was dissolved in a small amount of methanol and conc. hydrochloric acid (1.2 ml) was added. The solvent was distilled off under reduced pressure and the residue was recrystallized from ethanol-diethyl ether to give 2.9 g of the title compound (colorless crystals).

reactant | Triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-2-(4-hydroxy-2-isopropyl-5-methylphenoxy)ethylamine hydrochloride | 2.60 g | Cl.CNCCOC1=C(C=C(C(=C1)C)O)C(C)C
reactant | 3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl chloride | 2.45 g | OC=1C(=C(CCl)C(=C(C1C)C)OCCO)C | C12H17ClO3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-{3-hydroxy-6-(2-hydroxyethoxy)-2,4,5-trimethylbenzyl}-N-methyl-2-(4-hydroxy-2-isopropyl-5-methylphenoxy)ethylamine hydrochloride | 3.8 g | Cl.OC=1C(=C(CN(C)CCOC2=C(C=C(C(=C2)C)O)C(C)C)C(=C(C1C)C)OCCO)C | InChI=1S/C25H37NO5.ClH/c1-15(2)20-13-22(28)16(3)12-23(20)30-10-8-26(7)14-21-19(6)24(29)17(4)18(5)25(21)31-11-9-27;/h12-13,15,27-29H,8-11,14H2,1-7H3;1H
